US05128348
A solution of 25.7 g (0.12 mol) of 3-(4-t-butylphenyl)-2-methyl-2-cyclopenten-1-one (EP 0259977) dissolved in 40 mL of ether was cooled to 0° C. Added dropwise was 43.7 mL (43.7 mmol) of a solution of 1M lithium aluminum hydride in THF. After stirring 20 min, the mixture was quenched by dropwise addition of saturated aqueous NaHSO3. The mixture was dried (MgSO4), solids were filtered and the filtrate was stripped to afford 26.8 g of 1-(4-t-butylphenyl)-2-methyl-cyclopenten-3-ol as an oil which slowly solidified.

reactant | 3-(4-t-butylphenyl)-2-methyl-2-cyclopenten-1-one | 0.12 mol, 25.7 g | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(CC1)=O)C | C16H20O
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 1-(4-t-butylphenyl)-2-methyl-cyclopenten-3-ol | 26.8 g | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(CC1)O)C | C16H22O
